US04997840
A mixture of acetic anhydride (147.2 ml) and formic acid (98%, 100.3 ml) was stirred at 50°-60° for 110 minutes and then cooled to ambient temperature. 2'-(Methylamino)acetophenone (100 g) was added in portions over a period of 30 minutes whilst maintaining the temperature below 30°. The mixture was stirred at ambient temperature for 90 minutes and then cooled to 0°. Water (512 ml) was added over a period of 20 minutes, followed by aqueous sodium hydroxide (specific gravity 1.5, 288 ml) added over a period of 85 minutes whilst maintaining the temperature below 10°. The reaction mixture was transferred to a separating funnel, dichloromethane (200 ml) was added, followed by hydrochloric acid (2M) to pH 9, and the dichloromethane layer separated. The aqueous layer was further extracted with dichloromethane (2×200 ml). The combined dichloromethane extracts were washed with aqueous sodium chloride (6M, 200 ml) and then dried over magnesium sulphate to give a solution of 2'-acetyl-N-methylformanilide.

reactant | acetic anhydride | 147.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2'-(Methylamino)acetophenone | 100 g | CNC1=C(C=CC=C1)C(C)=O | C9H11NO
reactant | sodium hydroxide | 288 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | Water | 512 ml | O | H2O
solvent | formic acid | 100.3 ml | C(=O)O | CH2O2
product | 2'-acetyl-N-methylformanilide | C(C)(=O)C1=C(N(C=O)C)C=CC=C1 | C10H11NO2
